* Z:\home\jodh\piezo_matlab\spice\peh.asc
V1 N002 0 SINE(0 {Veq} {f} 0 0 0 0)
R1 N013 N007 {Req}
L1 N002 N007 {Leq}
C1 N021 N013 {Ceq}
C2 N021 0 {Cp}
D1 N021 N025 {Diode}
Q1 N025 N027 N033 0 {npn}
D2 N028 N027 {Diode}
D4 N031 N030 {Diode}
Q2 N028 N021 N029 0 {pnp}
Q3 N030 N021 N029 0 {npn}
L2 N033 N035 {Li}
R2 N035 0 {Rsw}
C3 N029 0 {C1}
L3 N032 N034 {Li}
R3 N034 0 {Rsw}
Q4 N026 N031 N032 0 {pnp}
D3 N026 N021 {Diode}
D5 N021 N023 {Diode}
D6 0 N023 {Diode}
D7 N024 N021 {Diode}
D8 N024 0 {Diode}
C4 N023 N024 {Crect}
R4 N023 N024 {Rload}
R8 N003 N009 10
C14 N019 0 {C1}
Q5 N014 N003 N019 0 {pnp}
Q6 N010 N015 N020 0 {npn}
L5 N020 N022 {Li}
Q7 N011 N016 N020 0 {pnp}
Q8 N017 N003 N018 0 {npn}
C15 N018 0 {C1}
R10 N003 N008 10
D19 N003 N004 {Diode}
D20 0 N004 {Diode}
D21 N005 N003 {Diode}
D22 N005 0 {Diode}
C16 N004 N005 {Crect}
R9 N004 N005 {Rload}
R11 N022 0 {Rsw}
V3 N001 0 SINE(0 {Veq} {f} 0 0 0 0)
R7 N012 N006 {Req}
L4 N001 N006 {Leq}
C12 N003 N012 {Ceq}
C13 N003 0 {Cp}
D23 N037 N036 {Diode}
D24 0 N036 {Diode}
D25 N038 N037 {Diode}
D26 N038 0 {Diode}
C17 N036 N038 {Crect}
R12 N036 N038 {Rload}
V2 N039 0 SINE(0 {Veq} {f} 0 0 0 0)
R5 N041 N040 {Req}
L6 N039 N040 {Leq}
C5 N037 N041 {Ceq}
C6 N037 0 {Cp}
D13 N009 N019 {Diode}
D31 N014 N015 {Diode}
D32 N003 N010 {Diode}
D33 N011 N003 {Diode}
D34 N016 N017 {Diode}
D35 N018 N008 {Diode}
.model D D
.lib C:\users\jodh\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\users\jodh\My Documents\LTspiceXVII\lib\cmp\standard.bjt
.tran 0 1.025 1 uic
.param Rload=5.994843e+04
.param Crect=1uF
.param Rsw= 84
.param C1=1.9800e-08
.param Li=0.0470
* .step param C1 list 1n 10n 20n 45n\n.step param Li list 0.047 0.1 0.5 0.01 1\n.step dec param Rload 0.1k 100meg 3
* *Use old model\n.param Leq = 6.797433e+01\n.param Req = 5.196815e+08\n.param Ceq = 5.791988e-07\n.param Veq = 7.973054e+05\n.param f = 42\n.param Cp = 3.364591e-07
* *Use new model\n.param Leq = 2.953846e-08\n.param Req = 6.191716e-01\n.param Ceq = 2.112500e-07\n.param Veq = 2.752084e+01\n.param f = 42\n.param Cp = 1.252091e-07
* .include component_sweep.lib
.model 1 ako:TIP31C
.model 2 ako:TIP32C
.model 3 ako:BAT54
.param npn = 1
.param pnp = 2
.param Diode = 3
.include equiv_model.lib
.include other_models.lib
* .include large_sweep.lib
* .include lowpow_sweep.lib
* .include combine_sweep.lib
* .model 1 ako:BSS4130A\n.model 2 ako:BSS5130A\n.model 3 ako:MBR0520L\n \n.param npn = 1\n.param pnp = 2\n.param Diode = 3
.backanno
.end
